US07851473B2
(1) 2-Bromo-1-(2,3-difluorophenyl)ethanone
Bromine (4.96 g, 31.1 mmol) was slowly added dropwise to a solution of 1-(2,3-difluorophenyl)ethanone (4.85 g, 31.1 mmol) in diethyl ether (100 ml), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was distilled off under reduced pressure to give 7.29 g (99.9%) of the desired product as an oil.

reactant | Bromine | 31.1 mmol, 4.96 g | BrBr | Br2
reactant | 1-(2,3-difluorophenyl)ethanone | 31.1 mmol, 4.85 g | FC1=C(C=CC=C1F)C(C)=O | C8H6F2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Bromo-1-(2,3-difluorophenyl)ethanone | 7.29 g, 99.9% | BrCC(=O)C1=C(C(=CC=C1)F)F | C8H5BrF2O
